US06436929B1
4,4-Dimethyl-6-(3-nitrophenyl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one was prepared, from 6-iodo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one and 3-nitrophenyl boronic acid according to the procedure of Example 4, as a yellowish solid: mp 244-245° C.; 1H-NMR (DMSO-d6) δ10.38 (s, 1H, D2O exchangeable), 8.47 (s, 1H), 8.14-8.20 (m, 2H), 7.70-7.76 (m, 3H), 7.01 (d, 1H, J=8.1 Hz), 1.68 (s, 6H); MS (EI) m/z 297([M−H]−, 100%); Anal. Calc. For C16H14N2O4: C, 64.42; H, 4.73; N, 9.39. Found: C, 63.93; H, 4.91; N, 8.71.

reactant | 6-iodo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | IC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10INO2
reactant | 3-nitrophenyl boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 4,4-Dimethyl-6-(3-nitrophenyl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=CC(=CC=C2)[N+](=O)[O-])C | C16H14N2O4
